US08957059B2
Step A: Preparation of 3-(5-Chloro-2-trifluoromethanesulfonyloxy-phenoxy)-azetidine-1-carboxylic acid tert-butyl ester
To 3-(5-chloro-2-hydroxy-phenoxy)-azetidine-1-carboxylic acid tert-butyl ester (2.0 g, 6.7 mmol) in CH2Cl2 (34 mL) at 0° C. was added Et3N (0.74 g, 1.0 mL, 7.3 mmol) and Tf2O (2.0 g, 7.0 mmol). After warming to rt, H2O was added and the mixture extracted with CH2Cl2 (2×). The combined organics were dried. Silica gel chromatography (5-25%) gave 1.12 g (39%) of the title compound as a white solid. 1H NMR (CDCl3): 7.20 (d, J=8.7 Hz, 1H), 7.03 (dd, J=8.7, 2.3 Hz, 1H), 6.67 (d, J=2.3 Hz, 1H), 4.95-4.91 (m, 1H), 4.34 (ddd, J=10.0, 6.4, 1.0 Hz, 2H), 4.08-4.04 (m, 2H), 1.46 (s, 9H).

reactant | 3-(5-chloro-2-hydroxy-phenoxy)-azetidine-1-carboxylic acid tert-butyl ester | 6.7 mmol, 2.0 g | C(C)(C)(C)OC(=O)N1CC(C1)OC1=C(C=CC(=C1)Cl)O | C14H18ClNO4
reactant | Et3N | 7.3 mmol, 1.0 mL, 0.74 g | CCN(CC)CC | C6H15N
reactant | Tf2O | 7.0 mmol, 2.0 g | O(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C2F6O5S2
reactant | H2O | O | H2O
solvent | CH2Cl2 | 34 mL | C(Cl)Cl | CH2Cl2
product | 3-(5-Chloro-2-trifluoromethanesulfonyloxy-phenoxy)-azetidine-1-carboxylic acid tert-butyl ester | 1.12 g, 39% | C(C)(C)(C)OC(=O)N1CC(C1)OC1=C(C=CC(=C1)Cl)OS(=O)(=O)C(F)(F)F | C15H17ClF3NO6S
